US09290451B2
b) (Z)-tert-Butyl 1-amino-1-(hydroxyimino)-2-methylpropan-2-ylcarbamate
Potassium carbonate (3.64 g) was dissolved in water (12 mL) and hydroxylammonium chloride (CAN: 5470-11-1, 1.7 g, mmol) was added. A solution of tert-butyl 2-cyanopropan-2-ylcarbamate (4.84 g, 26 mmol) in ethanol (42 mL) was added and the resulting reaction mixture was stirred for 18 h at ambient temperature. The solvent was removed under reduced pressure and the residue was diluted with ethyl acetate (20 mL). The mixture was filtered and the filtrate was concentrated to yield the crude product (5 g, 87.6%) as yellow solid. MS: m/e=218.2 [M+H]+.

reactant | Potassium carbonate | 3.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylammonium chloride | 1.7 g | [Cl-].O[NH3+]
reactant | tert-butyl 2-cyanopropan-2-ylcarbamate | 26 mmol, 4.84 g | C(#N)C(C)(C)NC(OC(C)(C)C)=O | C9H16N2O2
solvent | water | 12 mL | O | H2O
solvent | ethanol | 42 mL | C(C)O | C2H6O
product | (Z)-tert-Butyl 1-amino-1-(hydroxyimino)-2-methylpropan-2-ylcarbamate | 5 g, 87.6% | N\C(\C(C)(C)NC(OC(C)(C)C)=O)=N/O | C9H19N3O3
